US05216172
A solution of 5.0 g (18.9 mmol) 2-(3,4-dimethoxybenzylidene)acetoacetate and 2.18 g (18.9 mmol) 3-amino-crotonic acid methyl ester in 100 ml toluene was heated in a Dean-Stark apparatus for water removal, the solvent was distilled off from the reaction mixture, and the residue was purified by column chromatography (SiO2 /CHCl3), giving 4.30 g (63%) of dimethyl 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-3,5-pyridinedicarboxylate as whitish yellow crystals. M.P.: 153.5°-155° C.

reactant | 2-(3,4-dimethoxybenzylidene)acetoacetate | 18.9 mmol, 5.0 g | COC=1C=C(C=C(C(=O)[O-])C(=O)C)C=CC1OC
reactant | 3-amino-crotonic acid methyl ester | 18.9 mmol, 2.18 g | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-3,5-pyridinedicarboxylate | 4.30 g, 63% | COC=1C=C(C=CC1OC)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C19H23NO6
